US07268133B2
A solution of Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine 4A-1 (63 mg, 0.12 mmol) in dichloromethane (2 ml) was charged with triethylamine (0.1 ml). Methanesulfonyl chloride (0.01 ml, 0.14 mmol) was added via syringe, and the resultant mixture was stirred at 23° C. for 3 days. The reaction mixture was then washed with water (2 ml) and the layers were separated. The organic solution was dried over anhydrous magnesium sulfate and concentrated. Purification of the residue by reverse-phase HPLC afforded Rac-(S, S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(5-methanesulfonyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine 6A-1 (63 mg, quantitative): MS: 515.0 (M+1)+; 1H NMR (400 MHz, CD3OD) δ 8.3 (s, 0,5H), 8.1 (s, 0.5H), 7.6 (m, 4H), 7.4 (m, 4H), 6.1 (s, 0.5H), 5.2 (s, 0.5H), 4.7 (m, 1H), 4.4 (m, 0.5H), 4.2 (m, 0.5H), 4.0 (m, 1H), 3.8 (m, 1H), 3.5 (m, 3H), 3.0 (s, 3H).

reactant | Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine | 0.12 mmol, 63 mg | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2N2C1CNC(C2)C1)C1=C(C=CC=C1)Cl | C22H18Cl2N6
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.14 mmol, 0.01 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Rac-(S, S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(5-methanesulfonyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine | 63 mg | ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2N2C1CN(C(C2)C1)S(=O)(=O)C)C1=C(C=CC=C1)Cl | C23H20Cl2N6O2S
